US06995144B2
(1-Benzylpiperidin-4-yl)-(1,3-dihydroisobenzofuran-1-yl)methanone
After adding 0.511 ml of dimethylsulfoxide dropwise to a dichloromethane solution (15 ml) containing 0.315 ml of oxalyl chloride at −70° C., the mixture was stirred for 10 minutes, a solution of 597 mg of (1-benzylpiperidin-4-yl)-(1,3-dihydroisobenzofuran-1-yl)methanol in dichloromethane (5 ml) was added dropwise, and stirring was continued for 1 hour. Next, 2.5 ml of triethylamine was added dropwise to the reaction solution, the cooling bath was removed, and the mixture was stirred at room temperature. Water was added to the reaction solution, and extraction was is performed with ethyl acetate. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure to obtain the title compound (517 mg, 33% yield).

reactant | dimethylsulfoxide | 0.511 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.315 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (1-benzylpiperidin-4-yl)-(1,3-dihydroisobenzofuran-1-yl)methanol | 597 mg | C(C1=CC=CC=C1)N1CCC(CC1)C(O)C1OCC2=CC=CC=C12 | C21H25NO2
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (1-Benzylpiperidin-4-yl)-(1,3-dihydroisobenzofuran-1-yl)methanone | 517 mg, 33% yield | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)C1OCC2=CC=CC=C12 | C21H23NO2
